US04226763
2,4-Di-(α,α-dimethylbenzyl)phenol
This intermediate was made by the general procedure of U.S. Pat. No. 2,714,120 by reacting a mixture of 705.8 grams (7.5 moles) of phenol with 1772.7 grams (15 moles) of α-methylstyrene in the presence of 25.7 grams (0.135 moles) of p-toluenesulfonic acid monohydrate catalyst. This mixture was heated under nitrogen at 140° C. for 2.5 hours. The reaction mixture was cooled to 110° C. and 1125 ml of toluene was added. After washing the resulting solution at 80° C. with 750 ml of an aqueous solution of 37.5 grams of sodium carbonate and 75 grams of sodium chloride, the organic phase was washed thrice with 1000 ml of aqueous sodium chloride solution; then dried over anhydrous sodium sulfate; filtered and vacuum distilled. The above-named product was obtained as the main fraction boiling at 172°-175° C./0.15-0.18 mm Hg in a yield of 1229.8 grams (49.6% of theory). The product melted 63° -65° C.

reactant | phenol | 7.5 moles, 705.8 grams | C1(=CC=CC=C1)O | C6H6O
reactant | α-methylstyrene | 15 moles, 1772.7 grams | CC(=C)C1=CC=CC=C1 | C9H10
catalyst | p-toluenesulfonic acid monohydrate | 0.135 moles, 25.7 grams | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 1125 ml | C1(=CC=CC=C1)C | C7H8
product | 2,4-Di-(α,α-dimethylbenzyl)phenol | CC(C1=CC=CC=C1)(C)C1=C(C=CC(=C1)C(C1=CC=CC=C1)(C)C)O | C24H26O
